US08629271B2
a) Ethyl 8-(tert-butyldimethylsilyloxy)-2,2-dimethyloctanoate
n-Butyl lithium (32.8 mL) was added to a solution of diisopropylamine (1M in toluene, 11.64 mL) in THF (60 mL) at 0° C. to 5° C. over 15 minutes, and this mixture was stirred for 30 minutes. The reaction mixture was cooled to −78° C. then isobutyric acid ethyl ester (10 mL) was added dropwise over 15 minutes. The mixture was stirred at −78° C. for 1 hour, then (6-bromohexyloxy)-tert-butyldimethylsilane (23 mL) was added dropwise and the reaction mixture was stirred at −78° C. for a further 60 minutes. The cooling bath was removed and the mixture stirred at room temperature overnight before being poured onto a saturated aqueous solution of ammonium chloride (300 mL) and extracted with ethyl acetate (2×300 mL). The combined organic layers were washed with water (250 mL), dried over magnesium sulfate, filtered and evaporated to give the crude product. Purification was by silica gel chromatography eluting with 0-40% ethyl acetate in cyclohexane to afford the subtitled compound as a pale amber liquid. Yield 20 g.

reactant | n-Butyl lithium | 32.8 mL | C(CCC)[Li]
reactant | diisopropylamine | 1M, 11.64 mL | C(C)(C)NC(C)C | C6H15N
reactant | isobutyric acid ethyl ester | 10 mL | C(C)OC(C(C)C)=O | C6H12O2
reactant | (6-bromohexyloxy)-tert-butyldimethylsilane | 23 mL | BrCCCCCCO[Si](C)(C)C(C)(C)C | C12H27BrOSi
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | Ethyl 8-(tert-butyldimethylsilyloxy)-2,2-dimethyloctanoate | [Si](C)(C)(C(C)(C)C)OCCCCCCC(C(=O)OCC)(C)C | C18H38O3Si
